US06281358B1
Preparation of 4-(2-difluoromethoxypyridin-4-yloxy)-2-(pyrazin-2-yl)-pyrimidine
Water (20 mmoles) is added to a solution of 1,1,1,3-tetrachloro-3-ethoxypropane (10 mmoles) in dimethoxyethane (25 ml). The mixture is stirred for 2 h at 60° C. The resulting mixture is slowly added to a mixture consisting of a pyrazine-2-carboxamidine hydrochloride (10 mmoles), 2-difluoromethoxypyridin-4-ol (10 mmoles), potassium carbonate (60 mmoles) and dimethoxyethane (50 ml), which is stirred under reflux. When the addition of 3,3-dichloroacrolein solution is completed additional pyrazine-2-carboxamidine hydrochloride (0.5 mmoles) is added. The reaction mixture is stirred for 2 hours under reflux and subsequently cooled down to ambient temperature, filtered through silica, and the organic phase is concentrated in vacuo. The residue is purified by chromatography on SiO2 (ethyl acetate) to yield 2,60 g (82%) of beige crystals having a melting point of 128-129° C.

reactant | Water | 20 mmoles | O | H2O
reactant | 1,1,1,3-tetrachloro-3-ethoxypropane | 10 mmoles | ClC(CC(OCC)Cl)(Cl)Cl | C5H8Cl4O
reactant | pyrazine-2-carboxamidine hydrochloride | 10 mmoles | Cl.N1=C(C=NC=C1)C(=N)N
reactant | 2-difluoromethoxypyridin-4-ol | 10 mmoles | FC(OC1=NC=CC(=C1)O)F | C6H5F2NO2
reactant | potassium carbonate | 60 mmoles | C([O-])([O-])=O.[K+].[K+]
reactant | 3,3-dichloroacrolein | ClC(=CC=O)Cl | C3H2Cl2O
solvent | dimethoxyethane | 25 ml | C(OC)COC | C4H10O2
catalyst | pyrazine-2-carboxamidine hydrochloride | 0.5 mmoles | Cl.N1=C(C=NC=C1)C(=N)N
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
product | 4-(2-difluoromethoxypyridin-4-yloxy)-2-(pyrazin-2-yl)-pyrimidine | 2,60 g, 82% | FC(OC1=NC=CC(=C1)OC1=NC(=NC=C1)C1=NC=CN=C1)F | C14H9F2N5O2
